US05728686
d) Monoethyl ammonium [4-(7-ethoxymethyl-3-methylxanthin-1-yl)butyl]-phosphonate
6.3 g (0.013 mol) of benzylethyl 4-(7-ethoxymethyl-3-methylxanthin-1-yl)-butylphosphonate were hydrogenated in 100 ml of ethanol over 0.5 g of palladium (10%) on active carbon at room temperature in the course of 4 hours. The catalyst was filtered off, the filtrate was concentrated under reduced pressure, the solution obtained was treated with methanolic ammonia and the residue which remained after evaporating the solvent was then crystallized from diisopropyl ether.

reactant | benzylethyl 4-(7-ethoxymethyl-3-methylxanthin-1-yl)-butylphosphonate | 0.013 mol, 6.3 g | C(C)OCN1C=NC=2N(C(N(C(C12)=O)CCCCP(OCCCC1=CC=CC=C1)([O-])=O)=O)C
reactant | ammonia | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium | 0.5 g | [Pd] | Pd
product | Monoethyl ammonium [4-(7-ethoxymethyl-3-methylxanthin-1-yl)butyl]-phosphonate | C(C)OCN1C=NC=2N(C(N(C(C12)=O)CCCCP([O-])([O-])=O)=O)C.C(C)[NH3+].C(C)[NH3+] | InChI=1S/C13H21N4O6P.2C2H7N/c1-3-23-9-16-8-14-11-10(16)12(18)17(13(19)15(11)2)6-4-5-7-24(20,21)22;2*1-2-3/h8H,3-7,9H2,1-2H3,(H2,20,21,22);2*2-3H2,1H3
